### PR TITLE
Add Erdős Problem 992 (metric discrepancy of {αxₙ}), link the formal disproof

### LINKED ISSUE #1057: Erdős Problem 992
### What is the conjecture

https://www.erdosproblems.com/992

  Let $x_1<x_2<\cdots$ be an infinite sequence of integers. Is it true that, for almost all $\alpha \in [0,1]$, the discrepancy
$$D(N)=\max_{I\subseteq [0,1]} \lvert \\#\\{ n\leq N : \\{ \alpha x_n\\}\in I\\} - \lvert I\rvert N\rvert$$
satisfies
$$D(N) \ll N^{1/2}(\log N)^{o(1)}?$$
Or even
$$D(N)\ll N^{1/2}(\log\log N)^{O(1)}?$$

Status:  open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #1057.

### What changed
Adds `FormalConjectures/ErdosProblems/992.lean` with `discrepancy x α N` (supremum over half-open subintervals `[a, b) ⊆ [0, 1]` of `|#{n < N : {α xₙ} ∈ [a, b)} − (b − a) N|`) and:
- `erdos_992` (`research solved`, `answer(False)`): for every strictly increasing `x : ℕ → ℤ` and almost every `α ∈ [0, 1]`, `D(N) = O(√N (log N)^ε)` for every `ε > 0` (the `(log N)^{o(1)}` bound). Disproved by Berkes–Philipp [BePh94].
- `erdos_992.variants.loglog` (`answer(False)`): the `√N (log log N)^{O(1)}` bound.
- `erdos_992.variants.berkes_philipp`: the Berkes–Philipp construction, `limsup D(N)/√(N log N) > 0` a.e. (stated as `∃ c > 0, ∃ᶠ N, c √(N log N) ≤ D(N)`).
- `erdos_992.variants.baker` (`research solved`): Baker's bound `D(N) ≪ √N (log N)^{3/2 + ε}` [Ba81].

The first three are linked to plby/lean-proofs `Erdos992.not_erdos_992` (Codex and GPT-5.6 Sol), which formalizes the Berkes–Philipp construction with exactly this discrepancy (indexed from `x₀`).

### Why
Issue #1057 is up for grabs (the earlier PR #5877 was closed by its author). The plby proof is single-file, Mathlib-only and axiom-clean.

### How checked
- Rebuilt plby's file against this repo's Mathlib: `#print axioms Erdos992.not_erdos_992` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the three linked statements on top of a renamed copy, same axioms. `discrepancy` equals plby's `intervalDiscrepancy` (same set of interval errors); the a.e. statements are transported with `ae_restrict_iff'`; the refutations use `ε = 1/4` and `(log log N)^C = o((log N)^{1/4})`, and the elementary fact that `c √(N log N) ≤ C √N (log N)^{1/4}` bounds `log N`:

<details>
<summary>Bridge</summary>

```lean
open Filter Asymptotics MeasureTheory Set

namespace Bridge992

lemma discrepancy_eq (x : ℕ → ℤ) (α : ℝ) (N : ℕ) :
    Erdos992.discrepancy x α N = Erdos992Plby.intervalDiscrepancy x α N := by
  unfold Erdos992.discrepancy Erdos992Plby.intervalDiscrepancy
  congr 1
  ext t
  simp only [Set.mem_ofPred_eq, Set.mem_range]
  constructor
  · rintro ⟨a, b, h0, hab, hb1, rfl⟩
    exact ⟨⟨(a, b), h0, hab, hb1⟩, rfl⟩
  · rintro ⟨I, rfl⟩
    exact ⟨I.1.1, I.1.2, I.2.1, I.2.2.1, I.2.2.2, rfl⟩

/-- `limsup D(N)/√(N log N) > 0` is incompatible with `D(N) = O(√N (log N)^{1/4})`. -/
lemma contra {D : ℕ → ℝ} {c : ℝ} (hc : 0 < c)
    (hfreq : ∃ᶠ N : ℕ in atTop, c * √(N * Real.log N) ≤ D N)
    (hbig : (fun N : ℕ => D N) =O[atTop] fun N : ℕ => √N * Real.log N ^ (1 / 4 : ℝ)) :
    False := by
  obtain ⟨C, hC, hbig'⟩ := hbig.exists_pos
  rw [isBigOWith_iff] at hbig'
  have hlog : Tendsto (fun N : ℕ => Real.log N) atTop atTop :=
    Real.tendsto_log_atTop.comp tendsto_natCast_atTop_atTop
  have hev : ∀ᶠ N : ℕ in atTop, (C / c) ^ 4 + 1 ≤ Real.log N := hlog.eventually_ge_atTop _
  obtain ⟨N, hN1, hN2, hN3⟩ := (hfreq.and_eventually (hbig'.and hev)).exists
  set L := Real.log N with hLdef
  have hL : 0 < L := by
    have : (0 : ℝ) ≤ (C / c) ^ 4 := by positivity
    linarith
  have hN0 : 0 < (N : ℝ) := by
    rcases Nat.eq_zero_or_pos N with rfl | hpos
    · simp [hLdef] at hL
    · exact_mod_cast hpos
  set t := L ^ (1 / 4 : ℝ) with htdef
  have ht : 0 < t := Real.rpow_pos_of_pos hL _
  have ht2 : t ^ 2 = √L := by
    rw [htdef, Real.sqrt_eq_rpow, ← Real.rpow_natCast, ← Real.rpow_mul hL.le]
    norm_num
  have ht4 : t ^ 4 = L := by
    rw [htdef, ← Real.rpow_natCast, ← Real.rpow_mul hL.le]
    norm_num
  have hsqrtN : 0 < √(N : ℝ) := Real.sqrt_pos.2 hN0
  have habs : |√(N : ℝ) * t| = √N * t := abs_of_nonneg (by positivity)
  rw [Real.norm_eq_abs, Real.norm_eq_abs, habs] at hN2
  rw [Real.sqrt_mul hN0.le] at hN1
  have h1 : c * (√N * t ^ 2) ≤ C * (√N * t) := by
    rw [ht2]
    calc c * (√N * √L) ≤ D N := by linarith
      _ ≤ |D N| := le_abs_self _
      _ ≤ C * (√N * t) := hN2
  have h2 : c * t ^ 2 ≤ C * t := by
    have := mul_le_mul_of_nonneg_left h1 (le_of_lt (inv_pos.2 hsqrtN))
    field_simp at this
    nlinarith [this]
  have h3 : c * t ≤ C := by
    have : c * t * t ≤ C * t := by nlinarith
    exact le_of_mul_le_mul_right this ht
  have h4 : t ≤ C / c := by
    rw [le_div_iff₀ hc]
    linarith
  have h5 : t ^ 4 ≤ (C / c) ^ 4 := by
    exact pow_le_pow_left₀ ht.le h4 4
  rw [ht4] at h5
  linarith

theorem berkes_philipp_bridge : type_of% Erdos992.erdos_992.variants.berkes_philipp := by
  obtain ⟨x, hx, c, hc, hae⟩ := Erdos992Plby.not_erdos_992
  refine ⟨x, hx, c, hc, ?_⟩
  rw [ae_restrict_iff' measurableSet_Icc]
  filter_upwards [hae] with α hα hαI
  have := hα hαI
  simpa only [discrepancy_eq] using this

lemma false_of_ae_false (h : ∀ᵐ _α ∂(volume.restrict (Set.Icc (0 : ℝ) 1)), False) : False := by
  rw [ae_iff] at h
  simp only [not_false_eq_true, Set.ofPred_true, Measure.restrict_apply_univ, Real.volume_Icc,
    sub_zero, ENNReal.ofReal_one] at h
  exact one_ne_zero h

theorem erdos_992_bridge : type_of% Erdos992.erdos_992 := by
  show False ↔ _
  simp only [false_iff]
  intro h
  obtain ⟨x, hx, c, hc, hae⟩ := Erdos992Plby.not_erdos_992
  have h1 := h x hx
  rw [ae_restrict_iff' measurableSet_Icc] at h1
  apply false_of_ae_false
  rw [ae_restrict_iff' measurableSet_Icc]
  filter_upwards [h1, hae] with α hα1 hα2 hα
  have hbig := hα1 hα (1 / 4) (by norm_num)
  have hfreq := hα2 hα
  simp only [discrepancy_eq] at hbig
  exact contra hc hfreq hbig

theorem loglog_bridge : type_of% Erdos992.erdos_992.variants.loglog := by
  show False ↔ _
  simp only [false_iff]
  intro h
  obtain ⟨x, hx, c, hc, hae⟩ := Erdos992Plby.not_erdos_992
  have h1 := h x hx
  rw [ae_restrict_iff' measurableSet_Icc] at h1
  apply false_of_ae_false
  rw [ae_restrict_iff' measurableSet_Icc]
  filter_upwards [h1, hae] with α hα1 hα2 hα
  obtain ⟨C, hbig⟩ := hα1 hα
  have hfreq := hα2 hα
  simp only [discrepancy_eq] at hbig
  -- `(log log N)^C = O((log N)^(1/4))`
  have hsmall : (fun N : ℕ => √N * Real.log (Real.log N) ^ C) =O[atTop]
      fun N : ℕ => √N * Real.log N ^ (1 / 4 : ℝ) := by
    refine IsBigO.mul (isBigO_refl _ _) ?_
    have hlog : Tendsto (fun N : ℕ => Real.log N) atTop atTop :=
      Real.tendsto_log_atTop.comp tendsto_natCast_atTop_atTop
    have key : (fun y : ℝ => Real.log y ^ C) =O[atTop] fun y : ℝ => y ^ (1 / 4 : ℝ) :=
      (isLittleO_log_rpow_rpow_atTop C (by norm_num : (0 : ℝ) < 1 / 4)).isBigO
    exact key.comp_tendsto hlog
  exact contra hc hfreq (hbig.trans hsmall)

end Bridge992
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«992»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/992.lean [hunk 1]
```diff
@@ -0,0 +1,112 @@
...
+open Filter Asymptotics MeasureTheory
+
+namespace Erdos992
+
+/-- The discrepancy of the first $N$ fractional parts $\{\alpha x_n\}$: the supremum over
+subintervals $I = [a, b) \subseteq [0,1]$ of $\lvert \#\{ n < N : \{ \alpha x_n\}\in I\} -
+\lvert I\rvert N\rvert$. -/
+noncomputable def discrepancy (x : ℕ → ℤ) (α : ℝ) (N : ℕ) : ℝ :=
+  sSup {t | ∃ a b : ℝ, 0 ≤ a ∧ a ≤ b ∧ b ≤ 1 ∧
+    t = |({n ∈ Finset.range N | Int.fract (α * x n) ∈ Set.Ico a b}.card : ℝ) - (b - a) * N|}
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/992.lean:49]: discrepancy duplicated by [#6149](https://github.com/google-deepmind/formal-conjectures/pull/6149) and inline in 997.lean; also the links on erdos_992/.variants.loglog point at the Berkes–Philipp construction, not a refutation of those statements
